US05374720
To 60% sodium hydride (2.56 g, 64 mmol), tert-butylalcohol (50 ml) was added in a nitrogen stream at room temperature and the mixture was stirred for 20 minutes. To this mixture, a solution of (2S,4R)-N-tert-butoxycarbonyl-4-tert-butyldimethylsiloxy-2-(2-nitroethyl)pyrrolidine (11.8 g, 32 mmol) in tert-butylalcohol (30 ml) was added at room temperature. After stirring for 20 minutes, the mixture was added to precooled heptane (1 l) in an ice-bath and further stirred for to minutes at 0° C.. To the reaction mixture, a solution of potassium permanganate (5.06 g, 32 mmol) in water (100 ml) and a solution of boric acid (3.94 g, 64 mmol) in water (50 ml) were added, and the mixture stirred for minutes. To the reaction mixture, a solution of sodium thiosulfate pentahydrate (15.88 g, 64 mmol) in water ml) and 1 N sulfuric acid (64 ml) were added. After stirring for 10 minutes, the reaction mixture was filtered with celite and washed with heptane (200 ml). The filtrate and washings were combined, and the organic layer was washed sequentially with a saturated sodium hydrogencarbonate aqueous solution (200 ml) and a saturated sodium chloride aqueous solution (200 ml), dried over anhydrous sodium sulfate and concentrated under reduced pressure. The obtained oily residue was subjected to silica gel column chromatography (Wakogel™ C-300, heptane-ethyl acetate 5:1) to obtain (2S,4R)-N-tert-butoxycarbonyl-4-tert-butyldimethylsiloxy-2-(formylmethyl)pyrrolidine (7.0 g, yield: 66%).

reactant | sodium hydride | 64 mmol, 2.56 g | [H-].[Na+]
reactant | (2S,4R)-N-tert-butoxycarbonyl-4-tert-butyldimethylsiloxy-2-(2-nitroethyl)pyrrolidine | 32 mmol, 11.8 g | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CC[N+](=O)[O-] | C17H34N2O5Si
reactant | potassium permanganate | 32 mmol, 5.06 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | boric acid | 64 mmol, 3.94 g | B(O)(O)O | BH3O3
reactant | sodium thiosulfate pentahydrate | 64 mmol, 15.88 g | O.O.O.O.O.S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sulfuric acid | 1 N, 64 ml | S(O)(O)(=O)=O | H2O4S
solvent | tert-butylalcohol | 30 ml | C(C)(C)(C)O | C4H10O
solvent | water | 100 ml | O | H2O
solvent | water | 50 ml | O | H2O
solvent | tert-butylalcohol | 50 ml | C(C)(C)(C)O | C4H10O
solvent | heptane | 1 l | CCCCCCC | C7H16
product | (2S,4R)-N-tert-butoxycarbonyl-4-tert-butyldimethylsiloxy-2-(formylmethyl)pyrrolidine | 7.0 g, yield: 66% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CC=O | C17H33NO4Si
